US09431145B2
2-(4-(bis(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)amino)phenyl)-2-methylpropanenitrile-iPrCN-TAA diboronate monomer
2,8-dibromo-6,6,12,12-tetraoctyl-6,12-dihydroindeno[1,2-b]fluorene (2.60 g), 2-(4-(bis(4-bromophenyl)amino)phenyl)-2-methylpropanenitrile (947 mg), 2-(4-(bis(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)amino)phenyl)-2-methylpropanenitrile (2.84 g), potassium phosphate (4.27 g) and Aliquat 336 (2 drops) were dissolved in a mixture of toluene (32 mL), dioxane (16 mL) and water (16 mL). The solution was degassed for 15 minutes before adding tris(dibenzylideneacetone)dipalladium(0) (23 mg) and tri(o-tolyl)phosphine (46 mg) and heating to 90° C. for 17 hours. The reaction mixture was poured onto methanol (320 mL) and the resulting precipitate was filtered, dissolved in toluene (200 mL), washed with 1N NaOH, brine, water, dried (MgSO4) and concentrated. The residue was dissolved in toluene (150 mL) and passed through a pad of silica, washing through with toluene, toluene/THF and THF. The filtrates were concentrated and charcoal treated (3×0.53 g). The filtrates were concentrated and the solid taken up in THF (70 mL) and added dropwise to methanol (350 mL). The solid was filtered to give the target compound as a yellow solid. Yield: 3.3 g. Mn=11341 g/mol, n=11.2, Polydispersity=1.9.

reactant | 2,8-dibromo-6,6,12,12-tetraoctyl-6,12-dihydroindeno[1,2-b]fluorene | 2.60 g | BrC=1C=CC=2C=3C=C4C(=CC3C(C2C1)(CCCCCCCC)CCCCCCCC)C1=CC=C(C=C1C4(CCCCCCCC)CCCCCCCC)Br | C52H76Br2
reactant | 2-(4-(bis(4-bromophenyl)amino)phenyl)-2-methylpropanenitrile | 947 mg | BrC1=CC=C(C=C1)N(C1=CC=C(C=C1)C(C#N)(C)C)C1=CC=C(C=C1)Br | C22H18Br2N2
reactant | 2-(4-(bis(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)amino)phenyl)-2-methylpropanenitrile | 2.84 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C(C#N)(C)C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C34H42B2N2O4
reactant | potassium phosphate | 4.27 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Aliquat 336 | 2 drops | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | toluene | 32 mL | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 16 mL | O1CCOCC1 | C4H8O2
solvent | water | 16 mL | O | H2O
product | 2-(4-(bis(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)amino)phenyl)-2-methylpropanenitrile iPrCN | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C(C#N)(C)C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C.C(C)(C)C#N | InChI=1S/C34H42B2N2O4.C4H7N/c1-30(2,23-37)24-11-17-27(18-12-24)38(28-19-13-25(14-20-28)35-39-31(3,4)32(5,6)40-35)29-21-15-26(16-22-29)36-41-33(7,8)34(9,10)42-36;1-4(2)3-5/h11-22H,1-10H3;4H,1-2H3
